US07576092B2
Step B: 4-Chloro-2-(2,5,6-trichloro-pyrimidin-4-yl)-phenol.
A 250 mL 2-neck flask fitted with a rubber septum, temperature probe, and addition funnel was charged with 2,4,5-trichloro-6-(5-chloro-2-methoxy-phenyl)-pyrimidine (5.97 g, 18.54 mmol) and CH2Cl2 (90 mL) and kept under a N2 atmosphere. BBr3 (1 M in CH2Cl2; 37.1 mL, 37.1 mmol, 2 equiv.) was added slowly via addition funnel so that the temperature never exceeded 25° C. After 1 h, water (90 mL) was added and the mixture was stirred for approximately 30 min. The organic layer was washed with satd. aq. NaHCO3, dried, and concentrated to give a yellow powder (5.6 g, 98%). MS (ESI+): mass calcd. for C10H5Cl4N2O, 308.9; m/z found, 308.9 [M+H]+. 1H NMR (CDCl3): 9.76 (s, 1H), 8.00 (d, J=2.6 Hz, 1H), 7.39 (dd, J=8.9, 2.6 Hz, 1H), 7.03 (d, J=8.9 Hz, 1H).

reactant | 2,4,5-trichloro-6-(5-chloro-2-methoxy-phenyl)-pyrimidine | 18.54 mmol, 5.97 g | ClC1=NC(=C(C(=N1)Cl)Cl)C1=C(C=CC(=C1)Cl)OC | C11H6Cl4N2O
reactant | CH2Cl2 | 90 mL | C(Cl)Cl | CH2Cl2
reactant | BBr3 | 37.1 mmol, 1 M, 37.1 mL, 2 equiv. | B(Br)(Br)Br | BBr3
solvent | water | 90 mL | O | H2O
product | 4-Chloro-2-(2,5,6-trichloro-pyrimidin-4-yl)-phenol | 5.6 g, 98% | ClC1=CC(=C(C=C1)O)C1=NC(=NC(=C1Cl)Cl)Cl | C10H4Cl4N2O
